Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain, dizziness
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ year old woman with a history of HTN who presents with one 
week of chest pain.  She describes the chest pain as a constant, 
___, left-sided burning sensation that radiates to the back. 
Pain has been progressively worsening over the week. It is worst 
in the mornings, when pain is associated with weakness and 
fatigue.  It is also worse when she exerts her left arm (e.g. 
cutting vegtables), but not with generalized exertion.  She 
states current pain is distinct from heartburn symptoms which 
she had experienced in the past.  Associated symptoms include 
general weakness, fatigue, and mild DOE throughout the week. She 
denies nausea, or diaphoresis.  No fevers, sweats or rigors but 
did have some chills today.  
.
She went to see her PCP today due to her ongoing symptoms.  At 
the PCP's office SL NG was administered with almost immediate 
relief within seconds. She also recieved Aspirin 325mg. She was 
referred to the ED for further workup.  
.  
Of note:  Patient has prior history of admission to ___ ___ years 
ago with chest pain similar to current pain. At the time, pain 
developed acutely while was shoveling snow and was stronger than 
current complaints but similar in distribution and quality. She 
says she spent several days in the hospital and was told her 
heart was "damaged". No PTCA was done. She says she had a second 
admission to ___ ___ years ago for difficult to control HTN.  She 
takes her BP meds regularly.
. 
In the ED, initial Vitals: 99.2 66 185/88 18 99% 2L.  Labs were 
notable for absence of leukocytosis and Hct 33.  The patient was 
ruled out for MI by cardiac enzymes x 2 and EKG.  The patient 
underwent CXR that showed left basilar atelectasis versus 
infiltrate.  CTA chest ruled out aortic dissection and 
demonstrated extensive bronchiectasis in the right middle lobe 
and bilateral lower lobes.  Levoquin was administered prior to 
admission for possible infiltrate.  Prior to transfer, VS: 97.8, 
180/70, 57, 17, 98% ra.   
.  
On the floor, patient feels well.  She states her pain had 
resolved completley after NG at ___'s office. She has no further 
complaints.  She denies any recent or past known aspiration 
events. She had no recent travel, no sick or animal exposures 
and denies any history of TB or industrial exposures.  
 
Past Medical History:
- HTN  
- Pneumonia ___ years ago treated as out patient  
- ? of cardiac "event" - see HPI.  
- s/p left salpingectomy > ___ years ago.  

 
Social History:
___
Family History:
- Mother died of "heart attack" at age ___  
- Father had MI at age ___  
- no siblings or biological children  

 
Physical Exam:
Admission Physical Exam:  
VS - Temp 96.1 F, 161/79 BP , HR 57 , R 18 , 97 O2-sat % RA  
GENERAL - well-appearing in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
CHEST: some reproducible pain in left paravertebral area, mild 
scoliosis  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI is hyperdynamic but not displaced, RRR, no MRG, a 
third heart sound is heard possibly S4.  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact.  
. 
Discharge Physical Exam:  
VS: 97.3 136/74 55 18 97%RA  
GENERAL - well-appearing in NAD, comfortable  
NECK - supple, no JVD, no carotid bruits  
CHEST: non-tender to palpation  
LUNGS - mild dry crackles in bases, good air movement, resp 
unlabored  
HEART - RRR, no MRG  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact.  

 
Pertinent Results:
Admission Labs:  
___ 07:06PM BLOOD WBC-5.4 RBC-3.72* Hgb-11.2* Hct-33.6* 
MCV-90 MCH-30.0 MCHC-33.3 RDW-13.2 Plt ___
___ 04:32PM BLOOD Glucose-125* UreaN-20 Creat-1.1 Na-141 
K-4.0 Cl-104 HCO3-26 AnGap-15
___ 04:32PM BLOOD LD(LDH)-186
___ 10:45PM BLOOD Cholest-204*
___ 10:45PM BLOOD Triglyc-67 HDL-63 CHOL/HD-3.2 LDLcalc-128
___ 04:32PM BLOOD %HbA1c-5.5 eAG-111
___ 07:20PM BLOOD Lactate-1.0
. 
Discharge Labs:  
___ 06:25AM BLOOD WBC-5.6 RBC-3.65* Hgb-11.1* Hct-32.8* 
MCV-90 MCH-30.3 MCHC-33.7 RDW-13.1 Plt ___
___ 06:25AM BLOOD Glucose-94 UreaN-32* Creat-1.1 Na-144 
K-3.5 Cl-108 HCO3-28 AnGap-12
___ 06:25AM BLOOD Calcium-9.2 Phos-4.4 Mg-1.8
. 
Cardiac Enzyme trend:  
___ 04:32PM BLOOD cTropnT-<0.01
___ 10:45PM BLOOD cTropnT-<0.01
___ 06:25AM BLOOD CK-MB-2 cTropnT-<0.01
. 
Urine:  
___ 04:33PM URINE Color-Straw Appear-Clear Sp ___
___ 04:33PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 4:33 pm URINE CULTURE (Final ___:    NO GROWTH. 
. 
CXR ___:  
Findings: PA and lateral view of the chest, no prior. There is 
subtle left 
basilar opacity, potentially atelectasis, however, infiltrate is 
not excluded. In addition, there is a 7-mm nodular opacity 
projecting in the suprahilar region on the left. Elsewhere, the 
lungs are grossly clear, costophrenic angles are sharp. The 
cardiomediastinal silhouette is within normal limits.  Osseous 
and soft tissue structures are unremarkable. 
IMPRESSION: Left basilar atelectasis versus infiltrate. Possible 
left 
suprahilar nodule. These findings can be followed up on the 
upcoming chest 
CT, which has been ordered. 
. 
CTA chest/abdomen/pelvis ___:  
1. No evidence of aortic dissection. 
2. Bilateral adrenal nodules measuring 10 mm on the left and 8 
mm on the 
right, incompletely characterized on this single phase study. 
Further 
evaluation could be performed with an adrenal protocol CT or MR. 

3. Extensive bronchiectasis with associated reticulation and 
ground glass 
opacity in the basilar aspects of the right middle lobe and both 
lower lobes, possibly secondary to chronic aspiration or prior 
infection, although an intrinsic lung process, such as 
non-specific interstitial fibrosis, cannot be excluded. 
4. Right renal simple cyst. Additional left renal tiny 
hypodensities are too small to characterize, but are 
statistically simple cysts. 
5. Small quantity of free fluid in the dependent portion of the 
pelvis is a nonspecific finding, but not typically seen in a 
female patient of this age. 
6. Moderate lumbar spinal stenosis at L3-L4 and L4-L5. 
. 
Cardiac Perfusion Persantine ___:  
The image quality is adequate but limited due to soft tissue and 
breast 
attenuation. There is activity adjacent to the heart in the 
stress images. 
Left ventricular cavity size is normal.  Rest and stress 
perfusion images reveal uniform tracer uptake throughout the 
left ventricular myocardium.  
Gated images reveal normal wall motion.  The calculated left 
ventricular ejection fraction is 57% with an EDV of 102 ml. 
. 
Stress Portion ___:  No anginal type symptoms or ischemic ECG 
changes. 
. 
MRI head ___:  
1. There is no evidence of acute or subacute intracranial 
pathology. 
2. A few foci of high signal intensity are identified in the 
subcortical 
white matter of the right frontal region, which are nonspecific 
and may 
represent chronic microvascular ischemic changes. 
 
Brief Hospital Course:
___ year old woman with a history of HTN admitted with 1 week of 
chest pain, hospitalization complicated by dizziness.  
.  
# Chest pain: Patient presented to the emergency department with 
a week of left-sided stabbing, burning chest pain that radiates 
to the back.  In the emergency department, she was ruled out for 
myocardial infarction by enzymes and EKG.  She underwent CTA 
chest/abdomen/pelvis, that did not show evidence of pulmonary 
embolism or aortic dissection.  Stress test was performed given 
the patient's risk factors that showed normal myocardial 
perfusion and function, and absence of cardiac symptoms with 
stress.  CT did show extensive bronchiectasis and ground glass 
opacities, likely representing ___ syndrome in the 
context of the patient's chest pain, associated with fatigue and 
malaise.  Given absence of fevers and cough, there is no 
indication for antibiotic therapy.  The patient should undergo 
follow-up CT in 3 months to evaluate for evolving ground glass 
opacities.   
.  
# Dizziness: During admission, patient endorsed 2 weeks of 
dizziness that occurred with sudden onset.  She had no focal 
neurologic deficits on exam.  MRI brain did not show evidence of 
an acute cerebral process.  Orthostatics were negative and the 
patient was not bradycardic.  However, given the patient's 
description of symptoms and borderline-low blood pressure, 
labetalol was decreased to 200 mg BID.  The patient was seen by 
physical therapy, and was found to be safe to discharge home.  
.  
# Bilateral adrenal nodules: Incidental finding on CT. ___ be of 
concern given history of difficult-to-control hypertension.  The 
patient will need dedicated adrenal imaging as an outpatient.  
___ consider functional adrenal studies to evaluate for cause of 
poorly-controlled hypertension.  
.  
# normocytic anemia: Patient admitted with mild normocytic 
anemia without known baseline.  Anemia remained stable 
throughout admission.  No evidence of bleed.  The patient should 
follow up with her primary care physician regarding her anemia.  

.
# HTN: chronic.  The patient was normotensive to mildly 
hypotensive during admission on home regimen of lisinopril and 
labetalol.  Prior to discharge, the patient's labetalol was 
decreased to 200 mg BID.  She remained normotensive.  She should 
follow up with her PCP for ___ blood pressure check on discharge.  

.  
# CODE: full code  
================================================================
TRANSITIONAL ISSUES:
# Patient should undergo repeat CT chest in 3 months (___) to 
evaluate ground glass opacities 
# Patient should undergo dedicated adrenal imaging to evaluate 
bilateral adrenal nodules.  ___ consider functional studies of 
nodules.   
# Patient should follow up with PCP for BP check, as labetalol 
was decreased on admission.  
 
Medications on Admission:
1. Lisinopril 40mg daily  
2. Labetolol 400mg BOD  
3. Aspirin 81mg daily 

 
Discharge Medications:
1. lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*90 Tablet(s)* Refills:*0*
2. labetalol 200 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*180 Tablet(s)* Refills:*0*
3. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:  atypical chest pain, dizziness   
SECONDARY DIAGNOSIS: Hypertension, bilateral adrenal nodules, 
normocytic anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 
.
You were admitted to the hospital with two weeks of left-sided 
chest pain.  On CT scan, you were found to have changes in your 
lung, concerning for an infection that does not need treatment 
with antibiotics at this time.  You were also found to have 
small nodules in your adrenal glands.  Your chest pain resolved. 
 You should follow up with your primary care physician for ___ 
repeat CT scan in 3 months to evaluate for changes in your lung 
findings and adrenal glands.  You had a stress test that showed 
no acute problems with your heart.  During your hospitalization, 
you were also noted to have dizziness and a feeling of weakness 
in your left leg.  We did not note any weakness on physical 
exam.  You underwent an MRI that showed no evidence of acute 
stroke.  You were seen by physical therapy who recommended that 
you walk with a walker (given to you during admission) at all 
times.  You should follow up with your PCP on discharge.  
. 
Medications changed this admission:  
DECREASE labetalol to 200 mg twice daily   
 
Followup Instructions:
___